US05438052
5-(3,4-Dimethoxyphenyl)-4(3H)-pyrimidinone (9.28 g) (40 mmol) are refluxed in 300 ml of 48% aqueous hydrogen bromide solution for 48 hours. The suspension obtained is suction filtered, the filter material is taken up in water and the product is precipitated by the addition of sodium hydrogen carbonate. The precipitate is filtered off, washed with water and dried at room temperature. There are obtained 8.3 g of 5-(3,4-dihydroxyphenyl)-4(3H)-pyrimidinone hydrobromide as a beige powder. M.p.>270° C.

reactant | 5-(3,4-Dimethoxyphenyl)-4(3H)-pyrimidinone | 40 mmol, 9.28 g | COC=1C=C(C=CC1OC)C=1C(NC=NC1)=O | C12H12N2O3
reactant | hydrogen bromide | 300 ml | Br | BrH
product | 5-(3,4-dihydroxyphenyl)-4(3H)-pyrimidinone hydrobromide | 8.3 g | Br.OC=1C=C(C=CC1O)C=1C(NC=NC1)=O | InChI=1S/C10H8N2O3.BrH/c13-8-2-1-6(3-9(8)14)7-4-11-5-12-10(7)15;/h1-5,13-14H,(H,11,12,15);1H
